US04126690
72 g (1 mol) of chlorine were passed into a solution of 84 g (1 mol) of diketene in dry carbon tetrachloride at -20° C and the reaction solution was then added dropwise, while stirring, to 200 ml of ethanol, during which addition the temperature was not allowed to rise above 0° C. The solvent was then stripped off in vacuo on a rotary evaporator and the residue was distilled. 155 g (94% of theory) of γ-chloroacetoacetic acid ethyl ester of boiling point 90° C/7 mm Hg were obtained.

reactant | chlorine | 1 mol, 72 g | ClCl | Cl2
reactant | diketene | 1 mol, 84 g | C=C1CC(=O)O1 | C4H4O2
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | γ-chloroacetoacetic acid ethyl ester | 155 g, 94% | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
